// Generated for: spectre 
// Generated on: Jun  4 13:32:49 2024 
// Design library name: Passive_mixer_ee20b087 
// Design cell name: Mixer_SB_VM_25D_TB_tsmc_with_buffer 
// Design view name: schematic 
simulator lang=spectre 
global 0 
// PARAMETERS 
parameters cap_w=14.493
parameters res_w=50.78
parameters sw_mul=97
parameters Vdd=1.2
parameters sw_wn=1.0088u
parameters wp0=3.17u
parameters wp1=2.4303u
parameters wp2=2.09616u
parameters wp3=2.0299u
parameters wn0=1u
parameters wn1=1.149999u
parameters wn2=1.0579999u
parameters wn3=1.013916u
parameters mp0=1
parameters mp1=3 
parameters mp2=8
parameters mp3=19
parameters mn0=1
parameters mn1=2
parameters mn2=5
parameters mn3=12
parameters flo=100000000.0 
parameters flo_start=100000000.0 
parameters flo_stop=1000000000.0 
parameters Bandwidth=10000000.0 
parameters res_w=50.785377608994885 
parameters sw_wn=1.0088071220436986e-06 
parameters sw_mul=97.0 
parameters temperature=27 
include "/cad/library/TSMC/65/lp/tsmcN65/../models/spectre/toplevel.scs" section=tt_lib 
 
// Library name: Passive_mixer_ee20b087 
// Cell name: RC_tank 
// View name: schematic 
subckt RC_tank in 
parameters _par0=10 _par1=10 
R0 (in 0 0) rppolyl_rf l=_par0*1u w=2u m=1 mismatchflag=0 
C4 (in 0 0) mimcap_um_sin_rf lt=_par1*4u wt=_par1*4u m=1 mimflag=3 \ 
mismatchflag=0 
C3 (in 0 0) mimcap_um_sin_rf lt=_par1*4u wt=_par1*4u m=1 mimflag=3 \ 
mismatchflag=0 
C2 (in 0 0) mimcap_um_sin_rf lt=_par1*4u wt=_par1*4u m=1 mimflag=3 \ 
mismatchflag=0 
C1 (in 0 0) mimcap_um_sin_rf lt=_par1*4u wt=_par1*4u m=1 mimflag=3 \ 
mismatchflag=0 
C0 (in 0 0) mimcap_um_sin_rf lt=_par1*4u wt=_par1*4u m=1 mimflag=3 \ 
mismatchflag=0 
ends RC_tank 
// End of subcircuit definition. 
 
// Library name: Passive_mixer_ee20b087 
// Cell name: voltage_mode_SB_25D_tsmc 
// View name: schematic 
subckt voltage_mode_SB_25D_tsmc LO\+ LO\- VO_N VO_P V_RF 
    I0 (VO_P) RC_tank _par0=res_w _par1=cap_w
    I1 (VO_N) RC_tank _par0=res_w _par1=cap_w
    M0 (V_RF LO\+ VO_P 0) nmos_rf lr=60n wr=sw_wn nr=1 sa=450.0n sb=450.0n \
        sd=240.0n \
        sca=((0+(((1e-06*1e-06)/6e-08)*(1/(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))-1/((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)))+(((1e-06*1e-06)/6e-08)*(1/(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))-1/((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)))+(((1e-06*1e-06)/(sw_wn*1.0))*(1/1.37e-06-1/(1.37e-06+(sw_wn*1.0))))+(((1e-06*1e-06)/(sw_wn*1.0))*(1/1.37e-06-1/(1.37e-06+(sw_wn*1.0)))))/1) \
        scb=((0+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/10.0+1e-06/100.0)*exp(-10.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/10.0+1e-06/100.0)*exp(-10.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/10.0+1e-06/100.0)*exp(-10.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/10.0+1e-06/100.0)*exp(-10.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/10.0+1e-06/100.0)*exp(-10.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/10.0+1e-06/100.0)*exp(-10.0*(1.37e-06+(sw_wn*1.0))/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/10.0+1e-06/100.0)*exp(-10.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/10.0+1e-06/100.0)*exp(-10.0*(1.37e-06+(sw_wn*1.0))/1e-06))))/1) \
        scc=((0+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/20.0+1e-06/400.0)*exp(-20.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/20.0+1e-06/400.0)*exp(-20.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/20.0+1e-06/400.0)*exp(-20.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/20.0+1e-06/400.0)*exp(-20.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/20.0+1e-06/400.0)*exp(-20.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/20.0+1e-06/400.0)*exp(-20.0*(1.37e-06+(sw_wn*1.0))/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/20.0+1e-06/400.0)*exp(-20.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/20.0+1e-06/400.0)*exp(-20.0*(1.37e-06+(sw_wn*1.0))/1e-06))))/1) \
        m=sw_mul sigma=1
    M1 (V_RF LO\- VO_N 0) nmos_rf lr=60n wr=sw_wn nr=1 sa=450.0n sb=450.0n \
        sd=240.0n \
        sca=((0+(((1e-06*1e-06)/6e-08)*(1/(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))-1/((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)))+(((1e-06*1e-06)/6e-08)*(1/(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))-1/((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)))+(((1e-06*1e-06)/(sw_wn*1.0))*(1/1.37e-06-1/(1.37e-06+(sw_wn*1.0))))+(((1e-06*1e-06)/(sw_wn*1.0))*(1/1.37e-06-1/(1.37e-06+(sw_wn*1.0)))))/1) \
        scb=((0+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/10.0+1e-06/100.0)*exp(-10.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/10.0+1e-06/100.0)*exp(-10.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/10.0+1e-06/100.0)*exp(-10.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/10.0+1e-06/100.0)*exp(-10.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/10.0+1e-06/100.0)*exp(-10.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/10.0+1e-06/100.0)*exp(-10.0*(1.37e-06+(sw_wn*1.0))/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/10.0+1e-06/100.0)*exp(-10.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/10.0+1e-06/100.0)*exp(-10.0*(1.37e-06+(sw_wn*1.0))/1e-06))))/1) \
        scc=((0+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/20.0+1e-06/400.0)*exp(-20.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/20.0+1e-06/400.0)*exp(-20.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/20.0+1e-06/400.0)*exp(-20.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/20.0+1e-06/400.0)*exp(-20.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/20.0+1e-06/400.0)*exp(-20.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/20.0+1e-06/400.0)*exp(-20.0*(1.37e-06+(sw_wn*1.0))/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/20.0+1e-06/400.0)*exp(-20.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/20.0+1e-06/400.0)*exp(-20.0*(1.37e-06+(sw_wn*1.0))/1e-06))))/1) \
        m=sw_mul sigma=1
ends voltage_mode_SB_25D_tsmc 
// End of subcircuit definition. 
 
// Library name: Passive_mixer_ee20b087
// Cell name: Inverter
// View name: schematic
subckt Inverter VDD Vin Vout
parameters wn=1u muln=1 wp=2u mulp=1
    M0 (Vout Vin 0 0) nmos_rf lr=60n wr=wn nr=1 sa=450.0n sb=450.0n \
        sd=240.0n \
        sca=((0+(((1e-06*1e-06)/6e-08)*(1/(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))-1/((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)))+(((1e-06*1e-06)/6e-08)*(1/(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))-1/((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)))+(((1e-06*1e-06)/(wn*1.0))*(1/1.37e-06-1/(1.37e-06+(wn*1.0))))+(((1e-06*1e-06)/(wn*1.0))*(1/1.37e-06-1/(1.37e-06+(wn*1.0)))))/1) \
        scb=((0+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/10.0+1e-06/100.0)*exp(-10.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/10.0+1e-06/100.0)*exp(-10.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/10.0+1e-06/100.0)*exp(-10.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/10.0+1e-06/100.0)*exp(-10.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/(wn*1.0))*((1.37e-06/10.0+1e-06/100.0)*exp(-10.0*1.37e-06/1e-06)-((1.37e-06+(wn*1.0))/10.0+1e-06/100.0)*exp(-10.0*(1.37e-06+(wn*1.0))/1e-06)))+((1/(wn*1.0))*((1.37e-06/10.0+1e-06/100.0)*exp(-10.0*1.37e-06/1e-06)-((1.37e-06+(wn*1.0))/10.0+1e-06/100.0)*exp(-10.0*(1.37e-06+(wn*1.0))/1e-06))))/1) \
        scc=((0+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/20.0+1e-06/400.0)*exp(-20.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/20.0+1e-06/400.0)*exp(-20.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/20.0+1e-06/400.0)*exp(-20.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/20.0+1e-06/400.0)*exp(-20.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/(wn*1.0))*((1.37e-06/20.0+1e-06/400.0)*exp(-20.0*1.37e-06/1e-06)-((1.37e-06+(wn*1.0))/20.0+1e-06/400.0)*exp(-20.0*(1.37e-06+(wn*1.0))/1e-06)))+((1/(wn*1.0))*((1.37e-06/20.0+1e-06/400.0)*exp(-20.0*1.37e-06/1e-06)-((1.37e-06+(wn*1.0))/20.0+1e-06/400.0)*exp(-20.0*(1.37e-06+(wn*1.0))/1e-06))))/1) \
        m=muln sigma=1
    M1 (Vout Vin VDD VDD) pmos_rf lr=60n wr=wp nr=1 sa=450.0n sb=450.0n \
        sd=240.0n \
        sca=((0+(((1e-06*1e-06)/6e-08)*(1/(2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))-1/((2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)))+(((1e-06*1e-06)/6e-08)*(1/(2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))-1/((2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)))+(((1e-06*1e-06)/(wp*1.0))*(1/2.77e-06-1/(2.77e-06+(wp*1.0))))+(((1e-06*1e-06)/(wp*1.0))*(1/2.77e-06-1/(2.77e-06+(wp*1.0)))))/1) \
        scb=((0+((1/6e-08)*(((2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))/10.0+1e-06/100.0)*exp(-10.0*(2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/10.0+1e-06/100.0)*exp(-10.0*((2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/6e-08)*(((2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))/10.0+1e-06/100.0)*exp(-10.0*(2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/10.0+1e-06/100.0)*exp(-10.0*((2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/(wp*1.0))*((2.77e-06/10.0+1e-06/100.0)*exp(-10.0*2.77e-06/1e-06)-((2.77e-06+(wp*1.0))/10.0+1e-06/100.0)*exp(-10.0*(2.77e-06+(wp*1.0))/1e-06)))+((1/(wp*1.0))*((2.77e-06/10.0+1e-06/100.0)*exp(-10.0*2.77e-06/1e-06)-((2.77e-06+(wp*1.0))/10.0+1e-06/100.0)*exp(-10.0*(2.77e-06+(wp*1.0))/1e-06))))/1) \
        scc=((0+((1/6e-08)*(((2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))/20.0+1e-06/400.0)*exp(-20.0*(2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/20.0+1e-06/400.0)*exp(-20.0*((2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/6e-08)*(((2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))/20.0+1e-06/400.0)*exp(-20.0*(2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/20.0+1e-06/400.0)*exp(-20.0*((2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/(wp*1.0))*((2.77e-06/20.0+1e-06/400.0)*exp(-20.0*2.77e-06/1e-06)-((2.77e-06+(wp*1.0))/20.0+1e-06/400.0)*exp(-20.0*(2.77e-06+(wp*1.0))/1e-06)))+((1/(wp*1.0))*((2.77e-06/20.0+1e-06/400.0)*exp(-20.0*2.77e-06/1e-06)-((2.77e-06+(wp*1.0))/20.0+1e-06/400.0)*exp(-20.0*(2.77e-06+(wp*1.0))/1e-06))))/1) \
        m=mulp sigma=1
ends Inverter
// End of subcircuit definition.

// Library name: Passive_mixer_ee20b087 
// Cell name: buffer_block 
// View name: schematic 
subckt buffer_block In Out Vdd 
I3 (Vdd w2 Out) Inverter wn=wn3 muln=mn3 wp=wp3 mulp=mp3 
I2 (Vdd w1 w2) Inverter wn=wn2 muln=mn2 wp=wp2 mulp=mp2 
I1 (Vdd w0 w1) Inverter wn=wn1 muln=mn1 wp=wp1 mulp=mp1 
I0 (Vdd In w0) Inverter wn=wn0 muln=mn0 wp=wp0 mulp=mp0 
ends buffer_block 
// End of subcircuit definition. 

// Library name: Passive_mixer_ee20b087 
// Cell name: Mixer_SB_VM_25D_TB_tsmc_with_buffer 
// View name: schematic 
E4 (net022 0 VO_IP 0) vcvs gain=1.0 
E3 (\270D_OUT 0 net011 0) vcvs gain=1.0 
E2 (\90D_OUT 0 net07 0) vcvs gain=1.0 
E1 (\180D_OUT 0 net012 0) vcvs gain=1.0 
E0 (\0D_OUT 0 net08 0) vcvs gain=1.0 
E5 (net021 0 VO_IN 0) vcvs gain=1.0 
I0 (net016 net017 VO_IN VO_IP net9) voltage_mode_SB_25D_tsmc 
I1 (net028 net029 VO_QN VO_QP net9) voltage_mode_SB_25D_tsmc 
B3 (\270D_OUT net029 Vdd) buffer_block 
B2 (\90D_OUT net028 Vdd) buffer_block 
B0 (\0D_OUT net016 Vdd) buffer_block 
B1 (\180D_OUT net017 Vdd) buffer_block 
PORT4 (net011 0) port r=50 type=pulse delay=0.75*(1/flo) val0=0 val1=1.2 \ 
period=1/flo rise=0.001*(1/flo) fall=0.001*(1/flo) \ 
width=0.25*(1/flo) fundname="LO_270" 
PORT3 (net07 0) port r=50 type=pulse delay=0.25*(1/flo) val0=0 val1=1.2 \ 
period=1/flo rise=0.001*(1/flo) fall=0.001*(1/flo) \ 
width=0.25*(1/flo) fundname="LO_90" 
PORT2 (net012 0) port r=50 type=pulse delay=0.5*(1/flo) val0=0 val1=1.2 \ 
period=1/flo rise=0.001*(1/flo) fall=0.001*(1/flo) \ 
width=0.25*(1/flo) fundname="LO_180" 
PORT1 (net08 0) port r=50 type=pulse delay=0 val0=0 val1=1.2 period=1/flo \ 
rise=0.001*(1/flo) fall=0.001*(1/flo) width=0.25*(1/flo) \ 
fundname="LO_0" 
V0 (Vdd 0) vsource dc=Vdd type=dc 
R3 (net07 0) resistor r=50 
R2 (net011 0) resistor r=50 
R0 (net08 0) resistor r=50 
R1 (net012 0) resistor r=50 
PORT5 (net022 net021) port r=50 type=dc 
PORT0 (net9 0) port r=50 type=dc pacmag=1 
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \ 
iabstol=1e-12 temp=temperature tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 \ 
rforce=1 maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \ 
sensfile="../psf/sens.output" checklimitdest=psf 
// ANALYSIS STATEMENTS 
sweeppss  sweep  param=flo  start=flo_start  stop=flo_stop  lin=2  { 
pss_test  pss  fund=flo  harms=50  errpreset=conservative  restart=yes 
+    annotate=status 
// PAC STATEMENTS 
pac_test pac sweeptype=absolute start=flo+Bandwidth maxsideband=10 
+ annotate=status 
pnoise_test  (  VO_IP  VO_IN  )  pnoise  sweeptype=absolute 
+         start=1K  stop=Bandwidth  lin=100  maxsideband=10  iprobe=PORT0 
+         refsideband=-1  noiseout=[usb]  annotate=status 
// PSP STATEMENTS 
psp_test psp sweeptype=absolute start=flo portharmsvec=[1] 
+ ports=[PORT0] annotate=status datatype=dbphase 
} 
 
modelParameter info what=models where=rawfile 
element info what=inst where=rawfile 
outputParameter info what=output where=rawfile 
designParamVals info what=parameters where=rawfile 
primitives info what=primitives where=rawfile 
subckts info what=subckts where=rawfile 
save V0:p
saveOptions options save=allpub 
